US04632925
A mixture of 4-[2,2-bis(3-methoxyphenyl)ethenyl]piperidine (1.65 g), 3-(8-chloroctyl)pyridine (1.13 g), sodium iodide (0.75 g) and anhydrous sodium carbonate (0.53 g) in dimethylformamide (10 ml) was stirred under argon at 75° for 16 hours. The solvent was removed in vacuo and the residue was taken up in a mixture of ethyl acetate and 1N sodium hydroxide solution. The separated aqueous layer was reextracted with three portions of ethyl acetate. The organic layers were washed in turn with water and brine, then were combined, dried over sodium sulfate, decolorized with charcoal and evaporated to give 2.5 g of crude product as an oil. The oil was purified by HPLC (hexane:ethyl acetate:triethylamine; 34:17:1) to give 1.8 g of 3-[8-[4-[2,2-bis(3-methoxyphenyl)ethenyl]-1-piperidinyl]octyl]pyridine, as an oil.

reactant | 4-[2,2-bis(3-methoxyphenyl)ethenyl]piperidine | 1.65 g | COC=1C=C(C=CC1)C(=CC1CCNCC1)C1=CC(=CC=C1)OC | C21H25NO2
reactant | 3-(8-chloroctyl)pyridine | 1.13 g | ClCCCCCCCCC=1C=NC=CC1 | C13H20ClN
reactant | sodium iodide | 0.75 g | [I-].[Na+]
reactant | sodium carbonate | 0.53 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[8-[4-[2,2-bis(3-methoxyphenyl)ethenyl]-1-piperidinyl]octyl]pyridine | 1.8 g | COC=1C=C(C=CC1)C(=CC1CCN(CC1)CCCCCCCCC=1C=NC=CC1)C1=CC(=CC=C1)OC | C34H44N2O2
